US07772407B2
Sodium hydride (42 mg) was added to a solution of pyrrole (64 mg) in dimethylformamide (10 ml) under cooling with ice, and the mixture was stirred for half an hour at room temperature. After the mixture was cooled to −30° C., a solution of (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(bromomethyl)phenyl]-D-glucitol (80 mg) in tetrahydrofuran (2 ml) was added dropwise thereto, and the resultant was stirred for one hour at room temperature. Methanol (10 ml) and sodium methoxide (44 mg) was added thereto, and the resultant was stirred for one hour at the same temperature. After the completion of the reaction, the reaction mixture was concentrated to give the residue. The resulting residue was purified by a reversed-phase column chromatography (water-methanol) to obtain (1S)-1,5-anhydro-1-[3-(1H-pyrrole-1-ylmethyl)-phenyl]-D-glucitol (18 mg).

reactant | Sodium hydride | 42 mg | [H-].[Na+]
reactant | pyrrole | 64 mg | N1C=CC=C1 | C4H5N
reactant | (1S)-2,3,4,6-tetra-O-acetyl-1,5-anhydro-1-[3-(bromomethyl)phenyl]-D-glucitol | 80 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)C1=CC(=CC=C1)CBr | C21H25BrO9
reactant | sodium methoxide | 44 mg | C[O-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | Methanol | 10 ml | CO | CH4O
product | (1S)-1,5-anhydro-1-[3-(1H-pyrrole-1-ylmethyl)-phenyl]-D-glucitol | 18 mg | N1(C=CC=C1)CC=1C=C(C=CC1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C17H21NO5
